US07405219B2
3-(6-Allyloxymethyl-2-pyridylmethyl)-N,N-diallyl-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 182)
A solution of 7-(2-furyl)-3-(6-hydroxymethyl-2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (120 mg, 0.377 mmol) in DMF (5 mL) at 0° C. was treated with sodium hydride (30 mg, 0.743 mmol), stirred for 15 min, treated with allyl bromide (96 μl, 1.11 mmol), stirred at room temperature for 16 h, concentrated in vacuo to −2 mL and purified by chromatography [SiO2; isohexane:EtOAc (3:1)] to give the title compound (50 mg, 30%) as a yellow solid.

reactant | 7-(2-furyl)-3-(6-hydroxymethyl-2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.377 mmol, 120 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC(=CC=C2)CO | C15H13N7O2
reactant | sodium hydride | 0.743 mmol, 30 mg | [H-].[Na+]
reactant | allyl bromide | 1.11 mmol, 96 μl | C(C=C)Br | C3H5Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(6-Allyloxymethyl-2-pyridylmethyl)-N,N-diallyl-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 50 mg, 30% | C(C=C)OCC1=CC=CC(=N1)CN1N=NC2=C1N=C(N=C2C=2OC=CC2)N(CC=C)CC=C | C24H25N7O2
